US08536214B2
(R)—N-(5-(hydroxymethyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide (23 mg, 0.086 mmol) was dissolved in DCM (5 mL) and thionyl chloride (51 mg, 0.43 mmol) was added. The reaction mixture was stirred at room temperature for 1 h before being concentrated to dryness. The whole was dissolved in DMF (2 mL) to this was added tert-butyl 3-(trifluoromethyl)-6,7-dihydro-1H-pyrazolo[4,3-c]pyridine-5(4H)-carboxylate (25 mg, 0.086 mmol) followed by potassium carbonate (24 mg, 0.172 mmol). The reaction mixture was heated to 65° C. for 3 h before being quenched with water (2 mL) and the organics extracted with EtOAc (3×5 mL). The combined organics were washed with brine, dried (MgSO4) and concentrated under reduced pressure. The residue was treated with 1:1 TFA/DCM (2 mL) for 2 h before being concentrated to dryness. Purification by preparative basic HPLC gave (R)—N-(5-((3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridin-1-yl)methyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide (2.3 mg, 5.2 μmol, 6.1%). MS (ESI): m/z [M+H]+ 443.2

reactant | (R)—N-(5-(hydroxymethyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | 0.086 mmol, 23 mg | OCC=1C=C2C[C@@H](CC2=CC1)NS(=O)(=O)C(C)C | C13H19NO3S
reactant | thionyl chloride | 0.43 mmol, 51 mg | S(=O)(Cl)Cl | Cl2OS
reactant | tert-butyl 3-(trifluoromethyl)-6,7-dihydro-1H-pyrazolo[4,3-c]pyridine-5(4H)-carboxylate | 0.086 mmol, 25 mg | FC(C1=NNC2=C1CN(CC2)C(=O)OC(C)(C)C)(F)F | C12H16F3N3O2
reactant | potassium carbonate | 0.172 mmol, 24 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(5-((3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridin-1-yl)methyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | 5.2 μmol, 2.3 mg, 6.1% | FC(C1=NN(C2=C1CNCC2)CC=2C=C1C[C@@H](CC1=CC2)NS(=O)(=O)C(C)C)(F)F | C20H25F3N4O2S
